US09127027B2
N1-(5-Bromopentyl)-N2-n-butyloxalamide
A solution of carbon tetrabromide (51 mg, 0.15 mmol) in CH2Cl2 (5 mL) was stirred into a 0° C. solution of triphenylphosphine (48 mg, 0.18 mmol) and N1-n-butyl-N2-(5-hydroxypentyl)oxalamide (30 mg, 0.130 mmol) in dry CH2Cl2 (5 mL) under an argon atmosphere. After 2 h, the reaction mixture was washed with water (5 mL), brine (10 mL), dried over anhydrous Na2SO4, and all volatiles were removed under reduced pressure. The residue was purified by SiO2 column chromatography using EtOAc/hexane (1:4) to give compound the title compound (32 mg, 84%) as a colorless solid, mp 109-110° C. TLC: 50% EtOAc/hexanes, Rf˜0.50; 1H NMR (300 MHz) δ 7.55 (br s, NH, 1H), 7.50 (br s, —NH, 1H), 3.40 (t, J=6.0 Hz, 2H), 3.25-3.35 (m, 4H), 1.80-1.85 (m, 2H), 1.40-1.60 (m, 6H), 1.25-1.35 (m, 2H), 0.92 (t, J=7.3 Hz, 3H); 13C NMR (100 MHz) δ 160.30, 160.15, 39.65, 33.65, 32.45, 31.40, 28.60, 25.60, 20.20, 13.90. HRMS calcd for C11H22BrN2O2[M+1]+ 293.0865. found 293.0870.

reactant | carbon tetrabromide | 0.15 mmol, 51 mg | C(Br)(Br)(Br)Br | CBr4
reactant | triphenylphosphine | 0.18 mmol, 48 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N1-n-butyl-N2-(5-hydroxypentyl)oxalamide | 0.130 mmol, 30 mg | C(CCC)NC(C(=O)NCCCCCO)=O | C11H22N2O3
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | N1-(5-Bromopentyl)-N2-n-butyloxalamide | 32 mg, 84% | BrCCCCCNC(C(=O)NCCCC)=O | C11H21BrN2O2
